US08389734B2
A mixture of methyl 4-tert-butyl-2-hydroxybenzoate (0.70 g, 3.4 mmol), 2-fluoro-6-(trifluoromethyl)pyridine (0.55 g, 3.4 mmol), and Cs2CO3 (1.1 g, 3.4 mmol) in DMF (15 mL) was heated at 70° C. for 19 hours. The reaction was diluted with water and extracted with ethyl acetate. The combined extracts were washed with brine and water, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel with 0-15% ethyl acetate in hexanes to give methyl 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoate (0.49 g, 41% yield). LC/MS: m/z 354.3 (M+H)+ at 2.13 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | methyl 4-tert-butyl-2-hydroxybenzoate | 3.4 mmol, 0.70 g | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C12H16O3
reactant | 2-fluoro-6-(trifluoromethyl)pyridine | 3.4 mmol, 0.55 g | FC1=NC(=CC=C1)C(F)(F)F | C6H3F4N
reactant | Cs2CO3 | 3.4 mmol, 1.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoate | 0.49 g, 41% yield | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)OC1=NC(=CC=C1)C(F)(F)F | C18H18F3NO3
